US07498327B2
Preparation of {1-[(6-Chloroimidazo[2,1-b][1,3]thiazol-5-yl)sulfonyl]-1H-indol-3-yl}acetic acid
A stirred solution of 3-indolylacetic acid (175 mg, 1.00 mmol) in THF is cooled to −78° C. under nitrogen and treated portionwise with 2.5 M n-butyllithium in hexanes (0.84 mL, 2.10 mmol) over a 10 min. period. After 1 h at −78° C., the reaction mixture is treated with (6-chloroimidazo[2,1-b][1,3]thiazol-5-yl)sulfonyl chloride (257 mg, 1.00 mmol) in THF, allowed to warm to ambient temperature, stirred for 24 h and concentrated in vacuo. The resultant residue is treated with 1 M aq HCl (˜2 mL) and water (3 mL) and extracted with dichloromethane. The extracts are combined, dried (MgSO4) and concentrated in vacuo. Chromatography of this residue, eluting with ethyl acetate, affords the title compound as a light tan solid, 32 mg, mp 220-222° C. (darkens>200° C.), identified by mass spectral and NMR analyses.

reactant | 3-indolylacetic acid | 1.00 mmol, 175 mg | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | (6-chloroimidazo[2,1-b][1,3]thiazol-5-yl)sulfonyl chloride | 1.00 mmol, 257 mg | ClC=1N=C2SC=CN2C1S(=O)(=O)Cl | C5H2Cl2N2O2S2
solvent | THF | C1CCOC1 | C4H8O
product | {1-[(6-Chloroimidazo[2,1-b][1,3]thiazol-5-yl)sulfonyl]-1H-indol-3-yl}acetic acid | ClC=1N=C2SC=CN2C1S(=O)(=O)N1C=C(C2=CC=CC=C12)CC(=O)O | C15H10ClN3O4S2
